US07807695B2
Synthesis of 1-[4-(3-phenylpropyl)piperidin-1-yl]octan-3-one
1 equivalent of 4-(3-phenylpropyl)piperidine was reacted with 1 equivalent of 1-octen-3-one in ethanol, at room temperature. The product was worked up and purified on a column of silica. The results of the NMR and mass spectrometry analyses were in accordance with the expected structure.

reactant | 4-(3-phenylpropyl)piperidine | 1 equivalent | C1(=CC=CC=C1)CCCC1CCNCC1 | C14H21N
reactant | 1-octen-3-one | 1 equivalent | C=CC(CCCCC)=O | C8H14O
solvent | ethanol | C(C)O | C2H6O
product | 1-[4-(3-phenylpropyl)piperidin-1-yl]octan-3-one | C1(=CC=CC=C1)CCCC1CCN(CC1)CCC(CCCCC)=O | C22H35NO
